US05998470
b) methyl 3-benzyloxy-5-methoxybenzoate
Following the procedure of Example 80(a) except substituting methyl 3-hydroxy-5-methoxybenzoate for methyl 3,5-dihydroxybenzoate and benzyl bromide for iodomethane, the title compound was prepared as a tan oil (1.2 g, 4.4 mmol). 1H NMR (400 MHz, CDCl3) δ 7.45-7.31 (m, 6H), 7.24 (s, 1H), 6.76 (m, 1H), 5.09 (s, 2H), 3.95 (s, 3H), 3.84 (s, 3H).

reactant | methyl 3,5-dihydroxybenzoate | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | iodomethane | IC | CH3I
product | methyl 3-benzyloxy-5-methoxybenzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)OC | C16H16O4
